US08956613B2
Preparation of 1-[(2R,4R,5R)-3,3-Difluoro-4-hydroxy-5-(hydroxy-methyl)oxolan-2-yl]-1,2-dihydro-4-(pentyloxycarbonylamino)pyrimidin-2-one (29).
Using Method A and pentyl chloroformate, gemcitabine hydrochloride was converted to 29 (white solid, 95% yield): 1H NMR (200 MHz, DMSO-d6) δ 10.87 (s, 1H), 8.23-8.27 (d, 1H), 7.11-7.15 (d, 1H), 6.34-6.37 (d, 1H), 6.16-6.24 (t, 1H), 5.34 (s, 1H), 4.11-4.18 (t, 3H), 3.82-3.94 (m, 2H), 3.57-3.72 (m, 1H), 1.61-1.68 (t, 2H), 1.34-1.38 (t, 4H), 0.88-0.95 (t, 3H).

reactant | pentyl chloroformate | ClC(=O)OCCCCC | C6H11ClO2
reactant | gemcitabine hydrochloride | C1=CN(C(=O)N=C1N)[C@H]2C([C@@H]([C@H](O2)CO)O)(F)F.Cl
product | 1-[(2R,4R,5R)-3,3-Difluoro-4-hydroxy-5-(hydroxy-methyl)oxolan-2-yl]-1,2-dihydro-4-(pentyloxycarbonylamino)pyrimidin-2-one | 95% yield | FC1([C@@H](O[C@@H]([C@H]1O)CO)N1C(N=C(C=C1)NC(=O)OCCCCC)=O)F | C15H21F2N3O6
